### PR TITLE
feat: Constructors for Distributional EM

### PR DESCRIPTION
**Pull request by jstoobysmith**
Add some constructors for distributional EM.

### CODE REVIEW

File: Physlib/Relativity/Tensors/RealTensor/Vector/Basic.lean [hunk 1]
```diff
@@ -647,6 +647,14 @@ lemma temporalCLM_basis_sum_inl {d : ℕ} :
...
   simp [temporalCLM_apply_eq_timeComponent, basis_apply]
 
+/-- The continuous linear map corresponding to the creation of a
+  Lorentz Vector with only a non-zero temporal component. -/
+def ofTemporalComponent {d : ℕ} : ℝ →L[ℝ] Vector d where
+  toFun xt := xt • basis (Sum.inl 0)
+  map_add' := by simp [add_smul]
+  map_smul' := by simp [smul_smul]
+
+
```
Comment (zhikaip) [inline Physlib/Relativity/Tensors/RealTensor/Vector/Basic.lean]:
```suggestion
```
extra line

Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/RealTensor/Vector/Basic.lean]: Fixed - and also fixed lint.

**Review by zhikaip — APPROVED** [review]
LGTM
